US06376512B1
A mixture of 28.16 g (0.132 mol) of 2-quinolinylmethyl chloride HCl, 18 g (0.132 mol) of 3-hydroxybenzoic acid and 39.6 g of potassium carbonate in 110 ml of DMF is heated at 70° C. overnight. The reaction mixture is poured into water, and the precipitated product is collected, filtered and dried to give 3-(2quinolinylmethyloxy)benzoic acid.

reactant | 2-quinolinylmethyl chloride HCl | 0.132 mol, 28.16 g | Cl.N1=C(C=CC2=CC=CC=C12)CCl
reactant | 3-hydroxybenzoic acid | 0.132 mol, 18 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | potassium carbonate | 39.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
product | 3-(2quinolinylmethyloxy)benzoic acid | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)O)C=CC1 | C17H13NO3
